US09376441B2
Step 4: 5-bromo-1-ethyl-1H-benzo[d]imidazol-7-ol:
To a solution of 7-(benzyloxy)-5-bromo-1-ethyl-1H-benzo[d]imidazole (225 mg, 0.679 mmol) in DCM (8 mL) at 0° C. was added a solution of 1.0 M BBr3 in THF (0.66 mL, 1.5 equiv). After 1 h at 0° C., methanol (1.5 mL), and diethylamine (1.3 mL) were added to the reaction mixture, which was then stirred at rt for 1 h. Reaction mixture was then concentrated and water was added, the solids formed were filtered, washed with water and dried to give the title compound which was used further without purification. LCMS-ESI+ (m/z): [M+H]+ calcd for C9H10BrN2O: 241.0; found: 241.0.

reactant | 7-(benzyloxy)-5-bromo-1-ethyl-1H-benzo[d]imidazole | 0.679 mmol, 225 mg | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N(C=N2)CC)Br | C16H15BrN2O
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | THF | 0.66 mL, 1.5 equiv | C1CCOC1 | C4H8O
reactant | diethylamine | 1.3 mL | C(C)NCC | C4H11N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-bromo-1-ethyl-1H-benzo[d]imidazol-7-ol | BrC1=CC2=C(N(C=N2)CC)C(=C1)O | C9H9BrN2O
